US08404709B2
4-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-3-chlorobenzonitrile
245 mg (0.721 mmol) of 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-chlorobenzonitrile are dissolved under an argon atmosphere in 15 ml of abs. dichloromethane, and 273 mg (1.442 mmol) of triethyloxonium tetrafluoroborate are added. After a reaction time of two hours at room temperature (reaction checked by HPLC), the mixture is mixed with 5 ml of methanol and 0.5 ml of water and stirred for a further 2 h. It is then diluted with 20 ml of water and extracted three times with dichloromethane. The combined organic phases are dried with sodium sulfate, and the solvent is removed in a rotary evaporator. The residue is purified by preparative HPLC (eluent: acetonitrile/water with 0.1% formic acid, gradient 20:80→95:5). 127 mg (47.9% of theory) of the title compound are obtained.

reactant | 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-3-chlorobenzonitrile | 0.721 mmol, 245 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=C(C=C(C#N)C=C1)Cl)=O)C | C18H14ClN3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethyloxonium tetrafluoroborate | 1.442 mmol, 273 mg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 4-(3-Acetyl-5-ethoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)-3-chlorobenzonitrile | C(C)(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=C(C#N)C=C1)Cl)OCC)C | C20H18ClN3O2
